US09078442B2
Intermediate 2: 3,5-Dichloro-N-hydroxybenzenecarboximidoyl chloride
30.00 g (157.9 mmol) of 3,5-dichlorobenzaldehyde oxime were initially charged in ml of 0.5M HCl in DMF, and 116.7 g (189.5 mmol) of Oxone (potassium peroxomonosulfate) were added a little at a time at room temperature (RT). So that the internal temperature of the reaction mixture did not exceed 50° C., the mixture was cooled with an ice bath. After 2 h, the reaction solution was poured into 1 l of ice water and extracted twice with 500 ml of ether each time. The combined organic phases were then washed with 400 ml of 0.5M aqueous HCl and with 200 ml of saturated NaCl solution, dried over Na2SO4, filtered off and concentrated. The residue was used without further purification. Yield: 28.40 g (80%)

reactant | 3,5-dichlorobenzaldehyde oxime | 157.9 mmol, 30.00 g | ClC=1C=C(C=NO)C=C(C1)Cl | C7H5Cl2NO
reactant | HCl | 0.5M | Cl | ClH
reactant | Oxone | 189.5 mmol, 116.7 g | OOS(=O)[O-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-Dichloro-N-hydroxybenzenecarboximidoyl chloride | ClC=1C=C(C=C(C1)Cl)C(=NO)Cl | C7H4Cl3NO
